US07323455B2
7-(3-Chloro-4-fluorophenyl)-5,5-diphenyl-1,5-dihydro-4,1-benzoxazepin-2(H)-one
Prepared from 7-bromo-5,5-diphenyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 3-chloro-4-fluoro benzeneboronic acid generally according to the coupling procedure described in example 1. 1H NMR (DMSO-d6): δ 10.17 (s, 1H), 7.65 (dd, J=8.3, 2.44 Hz, 1H), 7.50 (dd, J=7.32, 2.44 Hz, 1H), 7.34-7.43 (m, 7H), 7.25 (d, J=8.3 Hz, 1H), 7.22-7.24 (m, 1H), 7.16-7.19 (m, 4H), 6.75 (d, 1.95 Hz, 1H), 4.26 (s, 2H); MS (ESI) m/z 442/444 ([M−H]−); Anal. calcd for C27H19ClFNO2: C: 73.06; H: 4.31; N: 3.16 Found: C: 72.67; H: 4.36; N: 2.89.

reactant | 7-bromo-5,5-diphenyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C2=CC=CC=C2)C2=CC=CC=C2)C1 | C21H16BrNO2
reactant | 3-chloro-4-fluoro benzeneboronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 7-(3-Chloro-4-fluorophenyl)-5,5-diphenyl-1,5-dihydro-4,1-benzoxazepin-2(H)-one | C1C(=O)NC2=C(C=C(C=C2)C3=CC(=C(C=C3)F)Cl)C(O1)(C4=CC=CC=C4)C5=CC=CC=C5 | C27H19ClFNO2
